US04220646
Phenyl chloroformate (141 g.) is added, with stirring and whilst keeping the temperature at about 5° C., to a suspension of 6-(5-chloropyrid-2-yl)-5-hydroxy-7-oxo-6,7-dihydro-5H-pyrrolo[3,4-b]pyrazine (158 g.) in anhydrous pyridine (1,580 cc.). When the addition is complete, the reaction mixture is heated to a temperature of about 60° C. The heating is continued for one hour. Water (4,750 cc.) is added to the reaction mixture after it has been cooled to a temperature of about 20° C. The product which crystallises is filtered off and washed with water (2×250 cc.), acetonitrile (150 cc.) and diisopropyl ether (250 cc.). After drying, 6-(5-chloropyrid-2-yl)-7-oxo-5-phenoxycarbonyloxy-6,7-dihydro-5H-pyrrolo[3,4-b]-pyrazine (169 g.), which melts at 193° C., is obtained.

reactant | Phenyl chloroformate | 141 g | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | 6-(5-chloropyrid-2-yl)-5-hydroxy-7-oxo-6,7-dihydro-5H-pyrrolo[3,4-b]pyrazine | 158 g | ClC=1C=CC(=NC1)N1C(C2=NC=CN=C2C1O)=O | C11H7ClN4O2
reactant | Water | 4,750 cc | O | H2O
solvent | pyridine | 1,580 cc | N1=CC=CC=C1 | C5H5N
product | 6-(5-chloropyrid-2-yl)-7-oxo-5-phenoxycarbonyloxy-6,7-dihydro-5H-pyrrolo[3,4-b]-pyrazine | 169 g | ClC=1C=CC(=NC1)N1C(C2=NC=CN=C2C1OC(=O)OC1=CC=CC=C1)=O | C18H11ClN4O4
